Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[O:1][C@:2]1([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],0.428041510239
[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:10].[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9],6.01091513223
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],-1.79264564786
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9],-5.59593587495
[H:16].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.563526391
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[H:7],6.0221818214
[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],1.92546102104
[C:2]#[C:3][C:4]([H:5])([H:6])[C:8]#[C:9][H:10].[H:1][C:7][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11],-7.43394452813
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:11]([H:12])([H:13])[H:14],7.40580212702
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],3.61830001249
[H:7].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[H:7],-2.31979073464
[C:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11].[O:4]=[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.8311919034199999
[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13],-1.63571748014
[H:13].[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.93287267617
[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.89042466
[C:1].[H:2]>>[C:1][H:2],-2.70036650809
[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4]=[O:5])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.01504190344
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],4.02393530743
[C:10]([H:11])[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-2.3192670359900003
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2]#[C:3][O:6][C:7]#[C:8][H:9].[O:4][H:5],3.56341393881
[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9]([H:10])[o:11]1>>[H:1][C:2][O:11][C:9]([C:4](=[C:3])[C:5]([H:6])([H:7])[H:8])[H:10],5.31128875432
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])[O:8][H:9].[H:7],2.27330616911
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[O:1],4.12992421
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.99214191228
[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.8621125678
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1[H:10]>>[H:1][O:2][C@:3]([H:4])([O:5])[C:9](=[C:6]([H:7])[H:8])[H:10],-0.16147859644
[H:1][O:2][C:3][O:9][C:6]([C:4][H:5])([H:7])[H:8]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1,-4.31301728
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],0.598158413708
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:3]([H:4])=[C:9]([C:6]([C:5])([H:7])[H:8])[H:10].[H:1][C:2]#[C:11][H:12],1.7001357219600002
[H:1][O:2][C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-3.34190666393
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])#[C:5][O:6]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-3.57336821207
